US04321081
o-Aminophenylacetylmorpholine (9.8 g) and triethylamine (4.5 g) were dissolved in chloroform (200 ml), and while maintaining at 0°-5° C., trifluoromethanesulfonic acid anhydride (12.55 g) was dropwise added thereto. After completion of the addition, the reaction mixture was allowed to stand under reflux for 2 hours. The chloroform layer was washed with a 5% aqueous hydrochloric acid solution (100 ml) and water (100 ml) in order and concentrated to give an oily substance, which was solidified by allowing it to stand. The solid substance was recrystallized from a mixture of ethanol and water to give 8.14 g of N-[o-(trifluoromethanesulfonamido)phenylacetyl]morpholine. M.P. 95.5°-97° C.

reactant | o-Aminophenylacetylmorpholine | 9.8 g | NC1CN(CCO1)C(CC1=CC=CC=C1)=O | C12H16N2O2
reactant | triethylamine | 4.5 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 12.55 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[o-(trifluoromethanesulfonamido)phenylacetyl]morpholine | 8.14 g | FC(S(=O)(=O)NC1=C(C=CC=C1)CC(=O)N1CCOCC1)(F)F | C13H15F3N2O4S
